US04464366
50 g of 2-(4-BOC-aminophenyl)-2-hydroxyiminoacetic acid diphenylmethyl ester are boiled under reflux in a mixture of 1660 ml of methanol and 250 ml of 2N aqueous NaOH for 11/2 hours under nitrogen. The reaction mixture is concentrated to 300 ml, diluted with ethyl acetate and washed three times with water. The aqueous washings are combined, cooled to 0° C. and adjusted to a pH of 3 with 2N aqueous hydrochloric acid. Extraction is carried out with ethyl acetate and the organic phase is washed neutral with saturated aqueous NaCl solution, dried over Na2SO4 and concentrated by evaporation in vacuo. 250 ml of water are mixed with the evaporation residue and the pH is adjusted to 7 with 2N aqueous sodium hydroxide solution. The aqueous solution is then extracted with ethyl acetate, the organic phase is washed three times with water, the aqueous washings are combined and filtered through sand, the filtrate is concentrated in vacuo to approximately 50 ml and the product is precipitated by adding 150 ml of ethanol and 500 ml of ether. After filtering off and drying, 2-(4-BOC-aminophenyl)-2-hydroxyiminoacetic acid sodium salt (syn-anti mixture) is obtained.

reactant | 2-(4-BOC-aminophenyl)-2-hydroxyiminoacetic acid diphenylmethyl ester | 50 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(C(=NO)C1=C(C=C(C=C1)C(=O)OC(C)(C)C)N)=O | C26H26N2O5
reactant | NaOH | 2N, 250 ml | [OH-].[Na+]
solvent | methanol | 1660 ml | CO | CH4O
product | 2-(4-BOC-aminophenyl)-2-hydroxyiminoacetic acid sodium salt | [Na+].C(=O)(OC(C)(C)C)C1=CC(=C(C=C1)C(C(=O)[O-])=NO)N | InChI=1S/C13H16N2O5.Na/c1-13(2,3)20-12(18)7-4-5-8(9(14)6-7)10(15-19)11(16)17;/h4-6,19H,14H2,1-3H3,(H,16,17);/q;+1/p-1
